US08431695B2
Preparation of 5-(2-benzyl-1,3-benzothiazol-5-yl)-7-[1-(methylsulfonyl)-piperidin-4-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
In a manner similar to the procedure described for the preparation of Example 331 and using 5-(2-benzyl-1,3-benzothiazol-5-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and methanesulfonyl chloride as starting material, 20 mg (34%) of the desired product was isolated. 1H NMR (400 MHz, CD2Cl2) δ 8.49 (s, 1H), 8.39 (d, 1H), 8.32 (s, 1H), 7.92 (d, 1H), 7.84-7.78 (m, 5H), 7.04 (s, 1H), 4.91 (s, 2H), 4.38-4.33 (m, 2H), 3.84-3.78 (m, 1H), 3.38-3.30 (m, 2H), 3.23 (s, 3H), 2.74-2.69 (m, 2H), 2.38-2.30 (m, 2H); LC-MS m/z [M+H]+ 519.2, RT 3.13 min.

reactant | 5-(2-benzyl-1,3-benzothiazol-5-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C(C1=CC=CC=C1)C=1SC2=C(N1)C=C(C=C2)C=2C=C(N1N=CN=C(C12)N)C1CCNCC1 | C25H24N6S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 5-(2-benzyl-1,3-benzothiazol-5-yl)-7-[1-(methylsulfonyl)-piperidin-4-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 20 mg, 34% | C(C1=CC=CC=C1)C=1SC2=C(N1)C=C(C=C2)C=2C=C(N1N=CN=C(C12)N)C1CCN(CC1)S(=O)(=O)C | C26H26N6O2S2
